US05955476
To a stirred solution of ethyl 2-(1,3-dioxoisoindolin-2-yl)-2-fluoroacetate (0.80 g, 3.2 mmol) in tetrahydrofuran (30 mL) is added lithium diisopropylamide (1.7 mL, 3.4 mmol, 2 M) at -78° C. After 30 minutes, t-butyl acrylate (0.42 g, 3.2 mmol) is added to the mixture which is allowed to reach room temperature. The solvent is removed in vacuo and the residue stirred with methylene chloride (50 mL) and water (30 mL) for 10 min. The organic layer is washed with brine (30 mL), and dried over sodium sulfate. The solvent is removed in vacuo to give tert-butyl 4-(1,3-dioxoisoindolin-2-yl)-4-fluoro-4-ethoxycarbonylbutanoate which is further purified by column chromatography.

reactant | ethyl 2-(1,3-dioxoisoindolin-2-yl)-2-fluoroacetate | 3.2 mmol, 0.80 g | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)OCC)F | C12H10FNO4
reactant | lithium diisopropylamide | 3.4 mmol, 2 M, 1.7 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | t-butyl acrylate | 3.2 mmol, 0.42 g | C(C=C)(=O)OC(C)(C)C | C7H12O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-(1,3-dioxoisoindolin-2-yl)-4-fluoro-4-ethoxycarbonylbutanoate | O=C1N(C(C2=CC=CC=C12)=O)C(CCC(=O)OC(C)(C)C)(C(=O)OCC)F | C19H22FNO6
